US04816582
2.66 g (0.01 mol) of allyl 2-(2-amino-4-thiazolyl)-2-[(Z)-(cyanomethoxy)imino]-acetate in 100 ml of ethyl acetate are treated while stirring with 17.73 mg (0.0001 mol) of palladium chloride and 0.083 ml (0.0005 mol) of triethyl phosphate. After the addition of 1.54 ml (0.011 mol) of triethylamine, the mixture is stirred at room temperature for 24 hours. Crude 2-(2-amino-4-thiazolyl)-2-[(Z)-(cyanomethoxy)imino]-acetic acid triethylamine salt precipitates out. The filtered-off crude salt (2.9 g) is dissolved in 30 ml of methanol. The solution is adjusted to pH 3 with 2N aqueous hydrochloric acid. Crystallization occurs. The crystals obtained are filtered off and washed with methanol and ether. There are obtained 1.24 g (51.2%) of 2-(2-amino-4-thiazolyl)-2-[(Z)-(cyanomethoxy)imino]-acetic acid of melting point 140°-142° C. (decomposition).

reactant | allyl 2-(2-amino-4-thiazolyl)-2-[(Z)-(cyanomethoxy)imino]-acetate | 0.01 mol, 2.66 g | NC=1SC=C(N1)/C(/C(=O)OCC=C)=N/OCC#N | C10H10N4O3S
reactant | triethylamine | 0.011 mol, 1.54 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium chloride | 0.0001 mol, 17.73 mg | [Pd](Cl)Cl
catalyst | triethyl phosphate | 0.0005 mol, 0.083 ml | P(=O)(OCC)(OCC)OCC | C6H15O4P
product | 2-(2-amino-4-thiazolyl)-2-[(Z)-(cyanomethoxy)imino]-acetic acid | 1.24 g, 51.2% | NC=1SC=C(N1)/C(/C(=O)O)=N/OCC#N | C7H6N4O3S
